US05679623
Example H6:1-Amino-2,3-dihydro-2-oxo4-tert-butyl-1H-imidazole (compound no. 9.1A in table 2).
75 ml of aqueous ammonia solution (25%) are added to a solution of 25.6 g of 2,3-dihydro-2-oxo-3-tert-butylcarbonylmethyl-5-trifluoromethyl-1,3,4-oxadiazole in 100 ml of acetonitrile. After the slightly exothermal reaction has subsided, the reaction mixture is stirred for 2 hours at room temperature and then for 14 hours at 80° and then evaporated, the residue is treated with trichloromethane, and the trichloromethane mixture is freed from the undissolved components, dried and evaporated. The residue is triturated with diethyl ether and subjected to filtration with suction. This gives the tide compound in the form of pale yellow crystals which melt at 197-200°.

reactant | ammonia | 75 ml | N | H3N
reactant | 2,3-dihydro-2-oxo-3-tert-butylcarbonylmethyl-5-trifluoromethyl-1,3,4-oxadiazole | 25.6 g | O=C1OC(=NN1CC(=O)C(C)(C)C)C(F)(F)F | C9H11F3N2O3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-Amino-2,3-dihydro-2-oxo4-tert-butyl-1H-imidazole | NN1C(NC(=C1)C(C)(C)C)=O | C7H13N3O
